US08236801B2
B.4.1 Synthesis of (1R,3S,4S)-3-[(5-Bromo-pyrimidin-2-ylamino)-methyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
5-Bromo-2-chloro-pyrimidine (8.62 mmol) is added to a solution of (1R,3S,4S)-3-aminomethyl-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (6.63 mmol) in o-xylene (25 mL). K2CO3 (20.0 mmol) and DIPEA (19.9 mmol) are added successively and the mixture is heated to 138° C. for 16 h. The mixture is cooled to rt and filtered. The residue is washed with DCM and the combined filtrates are concentrated in vacuo to give the desired product which is used without further purification. LC-MS: tR=1.09 min; [M+H]+=383.3.

reactant | 5-Bromo-2-chloro-pyrimidine | 8.62 mmol | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | (1R,3S,4S)-3-aminomethyl-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 6.63 mmol | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@H]([C@H]1CN)C2 | C12H22N2O2
reactant | K2CO3 | 20.0 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | DIPEA | 19.9 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | o-xylene | 25 mL | CC=1C=CC=CC1C | C8H10
product | (1R,3S,4S)-3-[(5-Bromo-pyrimidin-2-ylamino)-methyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@H]([C@H]1CNC1=NC=C(C=N1)Br)C2 | C16H23BrN4O2
